US07473694B2
Synthesis of {7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-5-chloropyrazolo[1,5-a]pyrimidin-6-yl}acetic acid
To a mixed solution of water (0.5 mL) and tert-butanol (5 mL) containing tert-butyl [5-chloro-6-(2-oxoethyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate (431 mg, 1.0 mmol), sodium dihydrogen phosphate (1.56 g, 10 mmol), 2-methyl-2-butene (1.1 mL, 10 mmol) and sodium chlorite (181 mg, 2.0 mmol) were added, and this mixture was stirred at room temperature for 4 hr. After the reaction, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off to obtain the title compound (468 mg).

reactant | tert-butyl [5-chloro-6-(2-oxoethyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate | 1.0 mmol, 431 mg | ClC1=NC=2N(C(=C1CC=O)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)OCC)N=CC2 | C21H23ClN4O4
reactant | sodium dihydrogen phosphate | 10 mmol, 1.56 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 10 mmol, 1.1 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 2.0 mmol, 181 mg | Cl(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
solvent | water | 0.5 mL | O | H2O
product | {7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-5-chloropyrazolo[1,5-a]pyrimidin-6-yl}acetic acid | 468 mg | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)Cl)CC(=O)O)C2=CC=C(C=C2)OCC | C21H23ClN4O5
